US07345054B2
4-Phenylacetyl-1H-pyrrole-2-carboxylic acid benzylamide (3):
To a solution of 2,2,2-trichloro-1-(4-phenylacetyl-1H-pyrrol-2-yl)-ethanone (1 equivalent) in DMF, at ambient temperature, was added benzylamine (1.2 equivalents). After 24 hours, the solvent was evaporated and the crude product 3 was used without purification. HPLC Method B, Rt=3.8 minutes; FIA/MS (M+1) 319.3, (M−1) 317.2.

reactant | 2,2,2-trichloro-1-(4-phenylacetyl-1H-pyrrol-2-yl)-ethanone | 1 equivalent | ClC(C(=O)C=1NC=C(C1)C(CC1=CC=CC=C1)=O)(Cl)Cl | C14H10Cl3NO2
reactant | benzylamine | 1.2 equivalents | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Phenylacetyl-1H-pyrrole-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C(CC1=CC=CC=C1)=O | C20H18N2O2
